* Copyright © Linear Technology Corp. 2012.  All rights reserved.
*
.subckt LT3014 1 2 3 4 5 6 7 8
Q1 N007 N005 8 0 PN Temp=27
Q2 N005 N003 4 0 NA
Q3 N003 N004 N010 0 NP Temp=27
C1 N003 4 4p Rser=700K
Q4 N004 N004 N012 0 NP 10 Temp=27
R2 N012 4 72K
R3 N010 4 60K
C2 1 N004 13p Rser=500K
Q5 1 2 N011 0 FB Temp=27
R6 N011 N012 703K
R5 5 4 10Meg
I1 5 4 3µ load
A1 5 4 4 4 4 4 N001 4 SCHMITT Vt=.8 Vh=1m trise=2m
G2 8 N004 N001 4 250n
G1 8 N003 N001 4 250n
R1 8 N005 1.67Meg
R8 N007 1 .2
A2 N006 4 N003 N003 N003 N003 4 N003 VARISTOR
D3 4 N006 F
G3 4 N006 1 N007 250m
Q7 N004 N005 N007 0 P 3m
D1 8 1 X
C7 8 4 10p
G5 N006 4 N001 4 table(0 3m 1 0)
G4 4 N006 8 4 table(2 .05m 5.5 2.9m 25 3.9m)
C4 8 N003 2p Rser=1G
C5 8 N004 1p Rser=1G
C8 2 4 1p
C9 1 4 10p
S1 N003 4 4 N001 SDN
.model PN PNP(BF=30 Cje=100p Cjc=100p Tf=10n Re=1.5)
.model NA NPN(BF=1Meg  Cje=5p Cjc=3p Re=100)
.model NP NPN(BF=150)
.model FB NPN(BF=195  Cje=100p Cjc=100p )
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=90)
.model SDN SW(Ron=1 Roff=10G Vt=-.5 Vh=-.1)
.ends LT3014
*
.subckt LT3014B 1 2 3 4 5 6 7 8
Q1 N007 N005 8 0 PN Temp=27
Q2 N005 N003 4 0 NA
Q3 N003 N004 N010 0 NP Temp=27
C1 N003 4 4p Rser=700K
Q4 N004 N004 N012 0 NP 10 Temp=27
R2 N012 4 72K
R3 N010 4 60K
C2 1 N004 13p Rser=500K
Q5 1 2 N011 0 FB Temp=27
R6 N011 N012 703K
A1 8 4 4 4 4 4 N001 4 SCHMITT Vt=.8 Vh=1m trise=2m
G2 8 N004 N001 4 250n
G1 8 N003 N001 4 250n
R1 8 N005 1.67Meg
R8 N007 1 .2
A2 N006 4 N003 N003 N003 N003 4 N003 VARISTOR
D3 4 N006 F
G3 4 N006 1 N007 250m
Q7 N004 N005 N007 0 P 3m
D1 8 1 X
C7 8 4 10p
G4 4 N006 8 4 table(2 .05m 5.5 2.9m 25 3.9m)
C4 8 N003 2p Rser=1G
C5 8 N004 1p Rser=1G
C8 2 4 1p
C9 1 4 10p
S1 N003 4 4 N001 SDN
.model PN PNP(BF=30 Cje=100p Cjc=100p Tf=10n Re=1.5)
.model NA NPN(BF=1Meg  Cje=5p Cjc=3p Re=100)
.model NP NPN(BF=150)
.model FB NPN(BF=195  Cje=100p Cjc=100p )
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=90)
.model SDN SW(Ron=1 Roff=10G Vt=-.5 Vh=-.1)
.ends LT3014B
